US09145421B2
Anhydrous aluminium chloride (5 g) was added to a reaction mixture containing 3-(5-chloro-2-phenoxyphenyl)-1-methylpyrrolidine-2,4-dione (1 g) in 1,2-dichlorobenzene (5 mL) at ambient temperature. The reaction mixture was stirred at about 85° C. for about 2 hours and 30 minutes, then cooled to ambient temperature. A mixture of water and concentrated hydrochloric acid (50 mL:5 mL) was added dropwise. The contents were stirred for about 30 minutes. Hexane (10 mL) was added. The contents were stirred for about 15 minutes, filtered, washed with hexane (10 mL) and dried in air at about 30° C. for about 15 hours followed by further drying at about 50° C. under reduced pressure to obtain 11-chloro-2-methyl-2,3-dihydro-1H-dibenzo [2,3:6,7]oxepino[4,5-c]pyrrol-1-one.

reactant | aluminium chloride | 5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-(5-chloro-2-phenoxyphenyl)-1-methylpyrrolidine-2,4-dione | 1 g | ClC=1C=CC(=C(C1)C1C(N(CC1=O)C)=O)OC1=CC=CC=C1 | C17H14ClNO3
reactant | water | O | H2O
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | 1,2-dichlorobenzene | 5 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | Hexane | 10 mL | CCCCCC | C6H14
product | 11-chloro-2-methyl-2,3-dihydro-1H-dibenzo [2,3:6,7]oxepino[4,5-c]pyrrol-1-one | ClC1=CC2=C(OC3=C(C4=C2C(N(C4)C)=O)C=CC=C3)C=C1 | C17H12ClNO2
